US04514326
A dry mixture of borax pentahydrate (145.6 g) and ammoniumsulfate (66.1 g) were stirred while heated in an open vessel between 120°-200° C. Vigorous ammonia and water evolution took place (these by-products were trapped). The original volume of the reactants increased 6.6-fold during the reaction. The crude, solid mixture provided ammoniumpentaborate upon recrystallization from water.

reactant | borax pentahydrate | 145.6 g | B1(OB2OB(OB(O1)O2)[O-])[O-].O.O.O.O.O.[Na+].[Na+]
reactant | ammoniumsulfate | 66.1 g | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | ammonia | N | H3N
solvent | water | O | H2O
product | ammoniumpentaborate | B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+] | InChI=1S/5BO3.15H3N/c5*2-1(3)4;;;;;;;;;;;;;;;/h;;;;;15*1H3/q5*-3;;;;;;;;;;;;;;;/p+15
